US09371320B2
B) 3-(1-(cyanomethyl)-1H-pyrazol-4-yl)-1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile
3-(1-(Cyanomethyl)-1H-pyrazol-4-yl)-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile (13.7 mg), sodium iodide (11.9 mg) and chloro(trimethyl)silane (25 μL) were stirred at 50° C. for 1 hr. The precipitated crystals were collected by filtration, and washed with ethyl acetate to give the title compound (3.3 mg).

reactant | 3-(1-(Cyanomethyl)-1H-pyrazol-4-yl)-1-cyclopentyl-4-methoxy-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | 13.7 mg | C(#N)CN1N=CC(=C1)C1=CN(C2=C1C(=NC=C2C#N)OC)C2CCCC2 | C19H18N6O
reactant | sodium iodide | 11.9 mg | [I-].[Na+]
reactant | chloro(trimethyl)silane | 25 μL | Cl[Si](C)(C)C | C3H9ClSi
product | 3-(1-(cyanomethyl)-1H-pyrazol-4-yl)-1-cyclopentyl-4-oxo-4,5-dihydro-1H-pyrrolo[3,2-c]pyridine-7-carbonitrile | 3.3 mg | C(#N)CN1N=CC(=C1)C1=CN(C2=C1C(NC=C2C#N)=O)C2CCCC2 | C18H16N6O
